US07838543B2
Step 2. 2′-Methyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide
The title compound is prepared by following a procedure analogous to Example 113, Step 1, using N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide (0.15 g, 0.31 mmol) and 2-methylphenylboronic acid (0.051 g, 0.38 mmol) to afford 0.098 g (71%). LC/MS, Retention time=4.75 min; (m/z): calcd for C26H28N4OS (M+H)+: 445.6; found: 445.0.

reactant | N-{2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | 0.31 mmol, 0.15 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
reactant | 2-methylphenylboronic acid | 0.38 mmol, 0.051 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | 2′-Methyl-biphenyl-4-carboxylic acid {2-[(2-dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-amide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)C)C)C | C26H28N4OS
